US08633175B2
3-bromo-4-methylbenzamide
To a slurry of 3-bromo-4-methylbenzoic acid (2.53 g, 85% purity; 10 mmol) in CH2Cl2 (20 mL) at 0° C., under N2, was added oxalyl chloride (0.91 mL; 10.5 mmol), followed by dropwise addition of DMF (0.04 mL; 0.5 mmol). The mixture was stirred 5 min at 0° C., 15 min at rt, and then heated at reflux under N2 for 1 h. The mixture was cooled, and poured into NH4OH (30 mL; ca. 30% NH3). Precipitated solids were collected by filtration and purified by flash chromatography (EtOAc/hexanes), affording the title compound as a colorless solid. LC/MS (method A) tR 2.05 min; m/z 214, 216 (M+H, Br isotopes).

reactant | 3-bromo-4-methylbenzoic acid | 2.53 g | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | oxalyl chloride | 10.5 mmol, 0.91 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.5 mmol, 0.04 mL | CN(C)C=O | C3H7NO
reactant | NH4OH | 30 mL | [NH4+].[OH-]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-4-methylbenzamide | BrC=1C=C(C(=O)N)C=CC1C | C8H8BrNO
